US05550276
Synthesis of diethyl 1-acetoxy-2-t-butylthio-1-methylethanephosphonate
25.2 g (88.6 mmol) of diethyl 2-t-butylthio-1-hydroxy-1-methylethanephosphonate in 130 ml of acetic anhydride are treated with 1 ml of concentrated sulfuric acid, during which process the temperature of the solution rises from 20 to about 30° C. The mixture is subsequently stirred for 8 hours at 20° C., treated with 100 ml of dichloromethane and poured onto 300 ml of ice/water. The organic phase which is separated off is washed in succession with dilute hydrochloric acid, sodium hydrogen carbonate solution and water and dried over sodium sulfate, and the solvent is distilled off in vacuo.

reactant | diethyl 2-t-butylthio-1-hydroxy-1-methylethanephosphonate | 88.6 mmol, 25.2 g | C(C)(C)(C)SCC(P(OCC)(=O)OCC)(C)O | C11H25O4PS
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | acetic anhydride | 130 ml | C(C)(=O)OC(C)=O | C4H6O3
product | diethyl 1-acetoxy-2-t-butylthio-1-methylethanephosphonate | C(C)(=O)OC(CSC(C)(C)C)(P(OCC)(=O)OCC)C | C13H27O5PS
